US08871774B2
Formation of (+/−)-methyl 7-(5-fluoro-2-(5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-ylamino)bicyclo[3.2.2]nonane-6-carboxylate (I-36)
Triethylsilane (0.434 mL, 2.721 mmol) was added to a stirred solution of racemic methyl 7-(5-fluoro-2-(5-fluoro-1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-ylamino)bicyclo[3.2.2]nonane-6-carboxylate, 58, (0.365 g, 0.544 mmol) and trifluoroacetic acid (0.419 mL, 5.440 mmol) in dichloromethane (20 mL). The resulting yellow solution was stirred at room temperature for 2 hr and concentrated in vacuo. Water (10 mL) and aqueous saturated NaHCO3 (5 mL) were added and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic phases were dried (MgSO4), filtered and the solvent was removed under reduced pressure. The crude product was purified by silica gel chromatography (10-90% MeOH/CH2Cl2 gradient) to afford 178 mg of the desired product as a white foamy solid: 1H NMR (400 MHz, CDCl3) δ 8.63 (s, 1H), 8.55 (s, 1H), 8.31 (s, 1H), 5.20 (s, 1H), 3.71 (s, 3H), 2.62 (m, 1H), 2.53 (m, 1H), 2.24 (m, 1H), 2.06 (m, 1H), 1.98-1.58 (m, 9H); LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=2.74 minutes (M+H) 329.86.

reactant | Triethylsilane | 2.721 mmol, 0.434 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | racemic methyl 7-(5-fluoro-2-(5-fluoro-1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-ylamino)bicyclo[3.2.2]nonane-6-carboxylate | FC=1C(=NC(=NC1)C1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC2C(C1CCCC2CC1)C(=O)OC | C40H36F2N6O2
reactant | trifluoroacetic acid | 5.440 mmol, 0.419 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (+/−)-methyl 7-(5-fluoro-2-(5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-ylamino)bicyclo[3.2.2]nonane-6-carboxylate | 178 mg | FC=1C(=NC(=NC1)C1=NNC2=NC=C(C=C21)F)NC2C(C1CCCC2CC1)C(=O)OC | C21H22F2N6O2
